US08202863B2
A mixture of 2-(2-fluoro-phenyl)-pyrimidine-5-carboxylic acid (105 mg, 0.48 mmol, prepared according to the general procedure described in Example 2, steps 1 and 2), 1-hydroxybenzotriazole (74 mg, 0.54 mmol) and PS-DCC (501 mg, 1.28 mmol/g, 0.64 mmol) in DMF (8 mL) is shaken at room temperature for 15 min. Aniline (29.9 mg, 0.32 mmol) is added. The mixture is shaken at room temperature for 18 hours. PS-trisamine (385 mg, 3.75 mmol/g, 1.44 mmol) is added and the mixture is continually shaken at room temperature for 18 hours. The solid is filtered and washed with EtOAc. The filtrate is concentrated to afford 2-(2-fluoro-phenyl)-pyrimidine-5-carboxylic acid phenylamide (60 mg, 63%) as a solid. MS: 294 (M+H).

reactant | 2-(2-fluoro-phenyl)-pyrimidine-5-carboxylic acid | FC1=C(C=CC=C1)C1=NC=C(C=N1)C(=O)O | C11H7FN2O2
reactant | 1-hydroxybenzotriazole | 0.54 mmol, 74 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | DCC | 0.64 mmol, 501 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | Aniline | 0.32 mmol, 29.9 mg | NC1=CC=CC=C1 | C6H7N
reactant | trisamine | 1.44 mmol, 385 mg | C(C(CO)(CO)N)O | C4H11NO3
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | 2-(2-fluoro-phenyl)-pyrimidine-5-carboxylic acid phenylamide | 60 mg, 63% | C1(=CC=CC=C1)NC(=O)C=1C=NC(=NC1)C1=C(C=CC=C1)F | C17H12FN3O
